US07078414B2
1.73 g (12.5 mmol) of potassium carbonate are added to 1.036 g (5 mmol) of 3-ethoxycarbonyl-4-trifluoromethyl-1H-pyrrole and 0.82 g (5 mmol) of 4-chloroquinoline dissolved in 10 mL of dimethyl sulphoxide at a temperature in the region of 20° C. under an argon atmosphere. After stirring for 18 hours at a temperature in the region of 110° C., the reaction mixture is poured into 30 mL of water and then left to crystallize for 1 hour at 20° C. After the solid residue has been filtered off and air-dried, 1.48 g of 3-ethoxycarbonyl-4-trifluoromethyl-1-(quinolin-4-yl)-1H-pyrrole are obtained in the form of beige-colored crystals melting at 108° C. IR spectrum (KBr): 3139; 1718; 1564; 1537; 1511; 1306; 1281; 1249; 1169; 1146; 1123; 1036; 846 and 773 cm1.

reactant | potassium carbonate | 12.5 mmol, 1.73 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-ethoxycarbonyl-4-trifluoromethyl-1H-pyrrole | 5 mmol, 1.036 g | C(C)OC(=O)C1=CNC=C1C(F)(F)F | C8H8F3NO2
reactant | 4-chloroquinoline | 5 mmol, 0.82 g | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | water | 30 mL | O | H2O
solvent | dimethyl sulphoxide | 10 mL | CS(=O)C | C2H6OS
product | 3-ethoxycarbonyl-4-trifluoromethyl-1-(quinolin-4-yl)-1H-pyrrole | 1.48 g | C(C)OC(=O)C1=CN(C=C1C(F)(F)F)C1=CC=NC2=CC=CC=C12 | C17H13F3N2O2
